US05990105
0.021 g (0.000054 mol) of N-[3-bromo-5-(4-aminobenzenesulphonyl)-phenyl]-N-methylacetamide was dissolved in a mixture of 10 ml of dioxane and 10 ml of 1N NaOH and heated at reflux for 2 hrs. Subsequently, the organic solvent was distilled off and the residue was made neutral with 1N HCl and extracted with ethyl acetate. The organic phase was washed with water and sat. sodium chloride solution, dried over MgSO4, filtered and concentrated. The residue was chromatographed on silica gel with ethyl acetate/hexane 1:2. There was obtained 0.01 g (54%) of [3-(4-aminobenzenesulphonyl)-5-bromophenyl]-methylamine as yellow crystals. MS (ISP): me/e=343, 341 (C13H14BrN2O2S+).

reactant | N-[3-bromo-5-(4-aminobenzenesulphonyl)-phenyl]-N-methylacetamide | 0.000054 mol, 0.021 g | BrC=1C=C(C=C(C1)S(=O)(=O)C1=CC=C(C=C1)N)N(C(C)=O)C | C15H15BrN2O3S
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | NaOH | 1N, 10 ml | [OH-].[Na+]
product | [3-(4-aminobenzenesulphonyl)-5-bromophenyl]-methylamine | 0.01 g, 54% | NC1=CC=C(C=C1)S(=O)(=O)C=1C=C(C=C(C1)Br)NC | C13H13BrN2O2S
